US04251546
Nitric acid (4 ml) was added dropwise to a stirred solution of bis(5-chloro-2-hydroxyphenyl)ketone (2.7 g) in glacial acetic acid (50 ml). The solution was stirred at room temperature for 1 hr and during this time a yellow solid separated from solution. The mixture was poured into ice water and the product collected by filtration. Thin layer chromatography indicated that the product was a mixture of two compounds which were separated by column chromatography on silica gel. Elution with hexane containing increasing amounts of ethyl acetate afforded 5-chloro-2-hydroxyphenyl 5-chloro-2-hydroxy-3-nitrophenyl ketone (150 mg) m.p. 153° C., followed by bis-(5-chloro-2-hydroxy-3-nitrophenyl)ketone (1.5 g), m.p. 187° C.

reactant | Nitric acid | 4 ml | [N+](=O)(O)[O-] | HNO3
reactant | bis(5-chloro-2-hydroxyphenyl)ketone | 2.7 g | ClC=1C=CC(=C(C1)C(=O)C1=C(C=CC(=C1)Cl)O)O | C13H8Cl2O3
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 5-chloro-2-hydroxyphenyl 5-chloro-2-hydroxy-3-nitrophenyl ketone | 150 mg | ClC=1C=C(C(=C(C1)C(=O)C1=C(C=CC(=C1)Cl)O)O)[N+](=O)[O-] | C13H7Cl2NO5
